US04963578
(a) (E)-2-Methoxycarbonylcinnamyl alcohol
2-Methoxycarbonylcinnamic acid, m.p. 176° C., was prepared by the method described in Example 2(a) and converted to the acid chloride, m.p. 75°-80° C., by the method described in Example 2(b). A solution of this acid chloride (15.5 g) in ether (250 ml) was added to a stirred suspension of sodium borohydride on alumina (60 g - prepared by addition of a solution of 1 part of sodium borohydride in 2 parts of water to 10 parts of alumina, with cooling, followed by drying under vacuum) in ether (360 ml). The mixture was stirred for 2 hours at room temperature and filtered. The filtrate was washed with 10% sodium carbonate solution, then with saturated sodium chloride solution, dried and evaporated to yield the title compound as a colourless oil.

reactant | 2-Methoxycarbonylcinnamic acid | COC(=O)C1=C(C=CC(=O)O)C=CC=C1 | C11H10O4
reactant | sodium borohydride | [BH4-].[Na+]
reactant | water | O | H2O
solvent | ether | 250 ml | CCOCC | C4H10O
product | (E)-2-Methoxycarbonylcinnamyl alcohol | COC(=O)C1=C(/C=C/CO)C=CC=C1 | C11H12O3
